US09079911B2
Step B: 2-(4,6-Dimethyl-pyrimidin-2-yl)-octahydro-pyrrolo[3,4-c]pyrrole.
5-(4,6-Dimethyl-pyrimidin-2-yl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester (0.92 g, 2.9 mmol), DCM (10 mL) and TFA (5 mL) were stirred at 23° C. for 2 h. The mixture was concentrated to remove the volatiles, diluted with EtOAc and 1N aq. NaOH, and extracted with EtOAc (3×). The organic fractions were dried and concentrated to give the title compound (0.61 g, 96%) that contained a small amount of DCM and was used as is. MS (ESI) mass calcd. for C12H18N4, 218.30; m/z found, 219.2 [M+H]+. 1H NMR (400 MHz, CDCl3): 6.27 (s, 1H), 3.81-3.70 (m, 2H), 3.55-3.48 (m, 2H), 3.16-3.07 (m, 2H), 2.94-2.78 (m, 4H), 2.29 (s, 6H).

reactant | 5-(4,6-Dimethyl-pyrimidin-2-yl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | 2.9 mmol, 0.92 g | C(C)(C)(C)OC(=O)N1CC2CN(CC2C1)C1=NC(=CC(=N1)C)C | C17H26N4O2
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4,6-Dimethyl-pyrimidin-2-yl)-octahydro-pyrrolo[3,4-c]pyrrole | 0.61 g, 96% | CC1=NC(=NC(=C1)C)N1CC2CNCC2C1 | C12H18N4
